US04052383
d. 1-Benzhydryl-2-benzimidoylazetidine
Suspend phenylmagnesium bromide in ether by adding under gentle reflux a solution of 189.2 g of bromobenzene in 500 ml of ether to a stirred suspension of 24.4 g of magnesium turnings in 1000 ml. of dry ether. Upon completion of the addition, reflux for another 30 minutes, then allow the mixture to cool for 15 minutes at room temperature. Add portionwise, over 3 to 4 minutes, 119.6 g of 1-benzhydryl-2-cyanoazetidine. Stir the mixture for 18 hours at room temperature, cool to 0° C and quench by the sequential addition of 750 ml. of water, 250 ml. of ether and 400 ml. of methylene chloride. Filter the mixture. Remove the aqueous layer of the filtrate. Wash the organic phase with water and dry over anhydrous sodium sulfate. Remove the solvent in vacuo. Triturate the solid residue with 500 ml of isopropyl ether and filter to obtain the analytically pure title product, m.p. 123.5°-126.5° C.

reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | bromobenzene | 189.2 g | BrC1=CC=CC=C1 | C6H5Br
reactant | magnesium | 24.4 g | [Mg] | Mg
reactant | 1-benzhydryl-2-cyanoazetidine | 119.6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C#N | C17H16N2
solvent | ether | CCOCC | C4H10O
solvent | ether | 500 ml | CCOCC | C4H10O
product | 1-Benzhydryl-2-benzimidoylazetidine | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(CC1)C(C1=CC=CC=C1)=N | C23H22N2
